US06562807B2
(R)-3{-4[-3-(3-tert-Butylphenyl)-1-(4-cyclohexylphenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic Acid
(R)-3-{4-[3-(3-tert-Butylphenyl)-1-(4-cyclohexylphenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic acid methyl ester (0.11 g, 0.188 mmol) was dissolved in ethanol (4 mL) and sodium hydroxide (4 N, 0.28 mL, 1.128 mmol) was added. The reaction was stirred for 1.5 hour and concentrated in vacuo to remove the ethanol. The residue was diluted with water (10 mL), acidified with hydrochloric acid (4 N, 0.3 mL) and extracted with ethyl acetate (2×10 mL). The combined organic phases were washed with water (3×10 mL) and dried with magnesium sulphate and concentrated in vacuo to afford the title compound (0.10 g).

reactant | (R)-3-{4-[3-(3-tert-Butylphenyl)-1-(4-cyclohexylphenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic acid methyl ester | 0.188 mmol, 0.11 g | COC([C@@H](CNC(C1=CC=C(C=C1)CN(C(=O)NC1=CC(=CC=C1)C(C)(C)C)C1=CC=C(C=C1)C1CCCCC1)=O)O)=O | C35H43N3O5
reactant | sodium hydroxide | 1.128 mmol, 4 N, 0.28 mL | [OH-].[Na+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | (R)-3{-4[-3-(3-tert-Butylphenyl)-1-(4-cyclohexylphenyl)ureidomethyl]benzoylamino}-2-hydroxypropionic Acid | 0.10 g | C(C)(C)(C)C=1C=C(C=CC1)NC(N(C1=CC=C(C=C1)C1CCCCC1)CC1=CC=C(C(=O)NC[C@H](C(=O)O)O)C=C1)=O | C34H41N3O5
